US05420298
Using an analogous procedure to that described in Example 3, 3-methoxy-3-[3-(naphth-2-ylmethoxy)phenyl]pyrrolidine was reacted with 2-chloroacetonitrile to give 1-(cyanomethyl)-3-methoxy-3-[3-(naphth-2-ylmethoxy)phenyl]pyrrolidine in 45% yield, m.p. 76°-77° C. (recrystallised from methanol).

reactant | 3-methoxy-3-[3-(naphth-2-ylmethoxy)phenyl]pyrrolidine | COC1(CNCC1)C1=CC(=CC=C1)OCC1=CC2=CC=CC=C2C=C1 | C22H23NO2
reactant | 2-chloroacetonitrile | ClCC#N | C2H2ClN
product | 1-(cyanomethyl)-3-methoxy-3-[3-(naphth-2-ylmethoxy)phenyl]pyrrolidine | 45% yield | C(#N)CN1CC(CC1)(C1=CC(=CC=C1)OCC1=CC2=CC=CC=C2C=C1)OC | C24H24N2O2
